US08278345B2
Compound 277: 4-Acetyl-1-(1H-benzoimidazol-5-yl)-3-hydroxy-5-(8-hydroxy-quinolin-2-yl)-1,5-dihydro-pyrrol-2-one
1H-Benzoimidazol-5-ylamine (1 mmol) and 8-Hydroxy-quinoline-2-carbaldehyde (1 mmol) were added to ethanol (5 ml). After 30 min 2,4-Dioxo-pentanoic acid ethyl ester (1 mmol) was added. The reaction was heated to 50° C. and stirred for 24 h. After evaporation of the solvent the residue was purified with chromatographic methods.

reactant | 1H-Benzoimidazol-5-ylamine | 1 mmol | N1C=NC2=C1C=CC(=C2)N | C7H7N3
reactant | 8-Hydroxy-quinoline-2-carbaldehyde | 1 mmol | OC=1C=CC=C2C=CC(=NC12)C=O | C10H7NO2
reactant | 2,4-Dioxo-pentanoic acid ethyl ester | 1 mmol | C(C)OC(C(CC(C)=O)=O)=O | C7H10O4
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-Acetyl-1-(1H-benzoimidazol-5-yl)-3-hydroxy-5-(8-hydroxy-quinolin-2-yl)-1,5-dihydro-pyrrol-2-one | C(C)(=O)C1=C(C(N(C1C1=NC2=C(C=CC=C2C=C1)O)C1=CC2=C(NC=N2)C=C1)=O)O | C22H16N4O4
